US06015868
Preparation of 2,3,4,6-Tetramethylindene
2,4,6-Trimethylindanone (30.0 g, 0.17 moles) was stirred in diethylether (300 mL) at 0° C. as MeMgl (0.24 moles, 80.00 mL of 3.0 M solution in diethylether) was added dropwise. This mixture was stirred for another 30 minutes at 0° C. and then at 20° C. for an additional 3 hours. After the reaction period the mixture was poured on crushed ice, acidified with HCl, and extracted with 1 M HCl (2×100 mL), 1 M NaHCO3 (1×100 mL), and then H2O (1×100 mL). Drying over MgSO4 followed by filtration and solvent removal resulted in the isolation of a light brown oil. Vacuum distillation resulted in the isolation of the desired product as a pale yellow oil (28.0 g, 94.3 percent yield).

reactant | 2,4,6-Trimethylindanone | 0.17 moles, 30.0 g | CC1C(C2=CC(=CC(=C2C1)C)C)=O | C12H14O
reactant | HCl | Cl | ClH
reactant | diethylether | 300 mL | C(C)OCC | C4H10O
product | 2,3,4,6-Tetramethylindene | 28.0 g, 94.3 percent yield | CC=1CC2=CC(=CC(=C2C1C)C)C | C13H16
